# FIT as quadratic
Vs 1 0 dc 1u
v1 2 0 dc 1 ac 1
e2 6 0 2 0 FIT 0,0 1,1 2,4 3,9 4,16 5,25 order=2 below=0
e3 7 0 2 1 FIT 0,0 1,1 2,4 3,9 4,16 5,25 order=2 below=0
e0 5 0 2 0 posy(1,2) odd
e1 3 0 5 0 FIT 0,0 1,1 4,2 9,3 16,4 25,5 order=2 below=1.56984
e1 4 0 5 1 FIT 0,0 1,1 4,2 9,3 16,4 25,5 order=2 below=1.56984
.option out=120
.list
.print op v(1 2 3 4 5 6 7)
.op
.print dc v(1 2 3 4 5 6 7) iter(0)
.dc v1 -10 10 .25
*>.status notime
.end
